2145-05-09 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --dc'd cvvh
   --repeating UA/[**Name (NI) 12233**] (unclear if yeast is a colonizer)
   -Per Neuro: finding of  increased DWI signal in the right medial
   temporal lobe represents artifact vs old process and not consistent
   with her presentation.
   --vanc trough 21, did not redose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-7**] 05:00 PM
   Vancomycin - [**2145-5-7**] 08:00 PM
   Piperacillin - [**2145-5-8**] 10:07 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium - [**2145-5-8**] 02:00 PM
   Pantoprazole (Protonix) - [**2145-5-9**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-9**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.5
C (95.9
   HR: 69 (67 - 100) bpm
   BP: 77/46(56) {76/44(55) - 111/66(82)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 99.6 kg (admission): 105.1 kg
   Height: 65 Inch
             Total In:
                                                                  3,253 mL
                                                                    254 mL
   PO:
                                                                    600 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  2,653 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,221 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/48/81.[**Numeric Identifier 252**]/23/-2
   Physical Examination
   Gen: lethargic
   Lungs: CTAB
   Heart: s1/s2 present, -mrg
   Ext: [**2-13**]+ pitting edema
   Labs / Radiology
   76 K/uL
   11.1 g/dL
   112 mg/dL
   2.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   25 mg/dL
   96 mEq/L
   132 mEq/L
   37.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2145-5-7**]  11:32 AM
                             [**2145-5-7**]  04:07 PM
                             [**2145-5-7**]  04:18 PM
                             [**2145-5-7**]  11:21 PM
                             [**2145-5-7**]  11:33 PM
                             [**2145-5-8**]  03:56 AM
                             [**2145-5-8**]  04:08 AM
                             [**2145-5-8**]  10:03 AM
                             [**2145-5-8**]  10:20 AM
                             [**2145-5-9**]  02:23 AM
   WBC
   2.6
   3.9
   Hct
   41.1
   37.5
   Plt
   82
   76
   Cr
   2.2
   2.1
   2.9
   TCO2
   26
   26
   23
   23
   25
   Glucose
   79
   87
   82
   131
   112
   Other labs: PT / PTT / INR:18.3/62.2/1.7, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   63 yoF w/ ESRD on HD presenting with R sided weakness and blurred
   vision.
   .
   # Lethargy: Unclear if she is CO2 retaining [**3-16**] to not wearing BIPAP
   o/n. No med that would cause AMS
   -ABG
   -BIPAP at bedside
   .
   # Afib: H/O Afib. We have been holding metoprolol for hypotension.
   --restart metoprolol tartrate 12.5mg [**Hospital1 **] and see if BP remains stable
   .
   # Blurred vision / R sided weakness: Negative MRI. No Sz activity on
   EEG.
   .
   # Facial Swelling: Present R>L but improved. Pt remains volume up.
   -Try to remove fluid at HD
   .
   # LL Infiltrate: two more days of 8 day course Vanc/Zosyn
   .
    # Hypotension: BP stable at baseline of SBP
s 80
s-90
s. Cxs remain
   neg other than urine with yeast
   -continue midodrine 10mg po bid.
   -f/u blood and urine cxs
   .
   # ESRD: CVVH DC
d. Will restart HD tomorrow.
   .
   # Renal T/P: Plan to change from solumedrol to prednisone 40mg daily.
   F/U renal recs for taper
   .
   # Respiratory Failure: Requiring intermittent BiPAP for drowsiness and
   hypercarbia. Likely has obesity hypoventilation syndrome.
   .
   #Echodense Structure: seen on ECHO at SVC. Stable from last ECHO.
   -pt already anti-coagulated with IV heparin
   -start coumadin, needs 48 hrs of INR [**3-17**]
   .
   # DM: SS insulin
   ICU Care
   Nutrition: DM Diet
   Glycemic Control:  SS
   Lines:
   Arterial Line - [**2145-5-5**] 01:44 AM-
   20 Gauge - [**2145-5-5**] 01:46 AM
   Dialysis Catheter - [**2145-5-5**] 03:15 AM
   PICC Line - [**2145-5-8**] 07:22 PM
   Prophylaxis:
   DVT:  Hep gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now